US07141583B2
(5R)-3-(4-Imidazol-1-yl-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-oxazolidin-2-one
(5R)-3-(4-Imidazol-1-yl-3-fluorophenyl)-5-azidomethyloxazolidin-2-one (755 mg, 1.35 mM) was dissolved in dioxane (40 ml), treated with norbornadiene (115 g, 12.5 mM) and heated under reflux for 16 hours. After removal of the solvent, the residue was dissolved in the minimum of dichloromethane and purified by chromatography on a 20 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 10% methanol in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (660 mg).

reactant | (5R)-3-(4-Imidazol-1-yl-3-fluorophenyl)-5-azidomethyloxazolidin-2-one | 1.35 mM, 755 mg | N1(C=NC=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN=[N+]=[N-])=O)F | C13H11FN6O2
reactant | norbornadiene | 12.5 mM, 115 g | C12=CC=C(CC1)C2 | C7H8
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | (5R)-3-(4-Imidazol-1-yl-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-oxazolidin-2-one | 660 mg | N1(C=NC=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C15H13FN6O2
